US04675333
1-{2-Hydroxy-3-propyl-4-[3-(4-aminophenoxy)propoxy]phenyl}ethanone
1-{2-Hydroxy-3-propyl-4-[3-(4-nitrophenoxy)propoxy]phenyl}ethanone (19.6 g) was dissolved in a mixture of ethanol (300 ml) and dimethylformamide (100 ml), to which was added under nitrogen, a slurry of palladium on charcoal catalyst (1.0 g, 5%) in ethanol (50 ml). The suspension was then hydrogenated on a Parr at 60 psi and room temperature for 90 minutes. The suspension was filtered over Celite (registered Trade Mark), washed with ethanol and the filtrate evaporated under reduced pressure to a brown oil, which was triturated with water and filtered to give a brown solid. The solid was recrystallised from ethanol with charcoal to give a white solid, m.p. 75°-77° C.

reactant | 1-{2-Hydroxy-3-propyl-4-[3-(4-nitrophenoxy)propoxy]phenyl}ethanone | 19.6 g | OC1=C(C=CC(=C1CCC)OCCCOC1=CC=C(C=C1)[N+](=O)[O-])C(C)=O | C20H23NO6
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-{2-Hydroxy-3-propyl-4-[3-(4-aminophenoxy)propoxy]phenyl}ethanone | OC1=C(C=CC(=C1CCC)OCCCOC1=CC=C(C=C1)N)C(C)=O | C20H25NO4
